US04780480
Ethyl 2,3-Dihydrobenzofuran-5-ylacetate
2,3-dihydrobenzofuran-5-ylacetic acid (5.4 g) was heated at reflux in a solution of toluene (200 ml), ethanol (20 ml) and concentrated sulfuric acid (0.5 ml) with the azeotropic removal of water. When the reaction was complete, approximately 6 hours, the mixture was added to water/ethyl acetate and extracted with ethyl acetate. The organic extracts were combined and washed with 10% sodium carbonate, dried over sodium sulfate and the solvent evaporated to give the title compound as an oil.

reactant | 2,3-dihydrobenzofuran-5-ylacetic acid | 5.4 g | O1CCC2=C1C=CC(=C2)CC(=O)O | C10H10O3
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water ethyl acetate | O.C(C)(=O)OCC
solvent | water | O | H2O
product | Ethyl 2,3-Dihydrobenzofuran-5-ylacetate | O1CCC2=C1C=CC(=C2)CC(=O)OCC | C12H14O3
